US07214674B2
5-Fluoro-2-methyl-3,4-dihydroquinazoline (D12)
A solution of 2-amino-6-fluorobenzylamine (1.1 g, 7.86 mmol) and triethylorthoacetate (1.58 mL, 8.64 mmol) in ethanol (30 mL) was heated at 80° C. for 14 h. The reaction mixture was allowed to cool to room temperature and evaporated in vacuo. The yellow oil was triturated with diethyl ether to give the title compound as white solid (0.74 g, 57%).

reactant | 2-amino-6-fluorobenzylamine | 7.86 mmol, 1.1 g | NC1=C(CN)C(=CC=C1)F | C7H9FN2
reactant | triethylorthoacetate | 8.64 mmol, 1.58 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-Fluoro-2-methyl-3,4-dihydroquinazoline | 0.74 g, 57% | FC1=C2CNC(=NC2=CC=C1)C | C9H9FN2
